US08461328B2
A mixture of 4-(N-Boc-amino)-piperidine (1.0 g, 5.0 mmol), 2-hydroxybromopropane (1.0 g; 7.5 mmol) and TEA (0.76 g, 7.5 mmol) in AcCN (20 mL) was heated at 60° C. for 4 days. The reaction mixture was partitioned between EtOAc and water. The organic layer was separated, washed with brine, dried over Na2SO4 concentrated under reduced pressure. Purification of the residue by column chromatography on silica (0-5% 2M ammonia-MeOH in DCM) afforded [1-(2-hydroxy-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (0.76 g, 59%) as an oil. LCMS (Method G; ESI): RT=0.49 min, m+1=259.3.

reactant | 4-(N-Boc-amino)-piperidine | 5.0 mmol, 1.0 g | C(=O)(OC(C)(C)C)NC1CCNCC1 | C10H20N2O2
reactant | 2-hydroxybromopropane | 7.5 mmol, 1.0 g | OC(CBr)C | C3H7BrO
solvent | AcCN | 20 mL | C(=O)(C)C#N | C3H3NO
product | [1-(2-hydroxy-propyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 0.76 g, 59% | C(C)(C)(C)OC(NC1CCN(CC1)CC(C)O)=O | C13H26N2O3
